US07452886B2
C. 3-Methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester
To a solution of 2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (3.60 g, 13 mmol) in DMSO (30 ml), MeI (2.27 g, 16 mmol) and potassium carbonate (2.40 g, 17 mmol) are added at ambient temperature. The mixture is stirred for 18 h at ambient temperature. The reaction mixture is quenched with water and extracted with AcOEt. The combined extracts are washed with brine, dried over magnesium sulfate, filtrated and evaporated to afford 3.8 g of the desired product.

reactant | 2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 13 mmol, 3.60 g | C(C)(C)(C)OC(=O)N1CCC2(C(NC(N2)=O)=O)CC1 | C12H19N3O4
reactant | MeI | 16 mmol, 2.27 g | CI | CH3I
reactant | potassium carbonate | 17 mmol, 2.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 3-Methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 3.8 g, Yield: quant | C(C)(C)(C)OC(=O)N1CCC2(C(N(C(N2)=O)C)=O)CC1 | C13H21N3O4
